US04374143
Preparation of 2-(4-cyclohexylphenyl)imino-imidazolidine
9.1 g of p-cyclohexylaniline and 11.9 g of 2-n-butylthioimidazolidine hydrobromide in 60 ml of amyl alcohol are refluxed for 6 hours. The solvent is then distilled off in vacuo. The residue is taken up in methylene chloride and successively washed with dilute sodium hydroxide solution and water. The methylene chloride is distilled off and the crude final product is recrystallised from acetonitrile. The resylting 2-(4-cyclohexylphenyl)imino-imidazolidine decomposes at 163° C.

reactant | p-cyclohexylaniline | 9.1 g | C1(CCCCC1)C1=CC=C(N)C=C1 | C12H17N
reactant | 2-n-butylthioimidazolidine hydrobromide | 11.9 g | Br.C(CCC)SC1NCCN1
solvent | amyl alcohol | 60 ml | C(CCCC)O | C5H12O
product | 2-(4-cyclohexylphenyl)imino-imidazolidine | C1(CCCCC1)C1=CC=C(C=C1)N=C1NCCN1 | C15H21N3
